US08049015B2
3-[(N-Benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid benzyl ester (1.96 g, 3.7 mmol), (5-bromo-pyridin-3-yl)-acetic acid ethyl ester (0.99 g, 4.1 mmol), and potassium carbonate (1.79 g, 13.0 mmol) were combined in DME (40 mL) and H2O (30 mL), and the solution was purged with N2 for 10 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.427 g, 0.37 mmol) was added, and the reaction was stirred at 70° C. overnight. The mixture was quenched with 1N aqueous HCl (13 mL) and extracted with EtOAc. The combined organic layers were washed with H2O, and then dried and concentrated to give 3-[(N-benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-(5-carboxymethyl-pyridin-3-yl)-benzoic acid benzyl ester.

reactant | 3-[(N-Benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid benzyl ester | 3.7 mmol, 1.96 g | C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C31H36BNO6
reactant | (5-bromo-pyridin-3-yl)-acetic acid ethyl ester | 4.1 mmol, 0.99 g | C(C)OC(CC=1C=NC=C(C1)Br)=O | C9H10BrNO2
reactant | potassium carbonate | 13.0 mmol, 1.79 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 40 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.37 mmol, 0.427 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[(N-benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-(5-carboxymethyl-pyridin-3-yl)-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)C=1C=NC=C(C1)CC(=O)O)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C32H30N2O6
